US04632927
Step 7. 3-Amino-1-methyl-5-[3-(1-piperidino-5-isoquinolyloxy)propylamino]-1H-1,2,4-triazole
Methyl hydrazine (5.7 ml) is added to a stirred suspension of 1-cyano-3-[3-(1-piperidino-5-isoquinolyloxy)propyl]-2-methylpseudothiourea (7.77 g) in 62 ml of DMF under nitrogen. The reaction mixture is stirred at 40° C. under nitrogen for 24 hours, cooled to RT, evaporated under vacuo and the residue dissolved in warm absolute ethanol. The resulting precipitate is collected, washed with absolute ethanol and dried in air. The filtrate is evaporated in vacuo and the residue crystallized from acetonitrile and dried overnight, yielding 5.3 g of the crude product as an off-white solid, M.P. 173°-175°0 C. The crude product is placed on a silica gel column and eluted with methylene chloride/methanol. The combined pure fractions are evaporated and recrystallized from acetonitrile, yielding the desired product, M.P. 181°-182° C.

reactant | Methyl hydrazine | 5.7 ml | CNN | CH6N2
reactant | 1-cyano-3-[3-(1-piperidino-5-isoquinolyloxy)propyl]-2-methylpseudothiourea | 7.77 g | C(#N)NC(SC)=NCCCOC1=C2C=CN=C(C2=CC=C1)N1CCCCC1 | C20H25N5OS
solvent | DMF | 62 ml | CN(C)C=O | C3H7NO
product | 3-Amino-1-methyl-5-[3-(1-piperidino-5-isoquinolyloxy)propylamino]-1H-1,2,4-triazole | NC1=NN(C(=N1)NCCCOC1=C2C=CN=C(C2=CC=C1)N1CCCCC1)C | C20H27N7O
